US09259426B2
Synthesis of N4-cyclopropyl-6-(4-fluoro-phenyl)-N2-(1-methyl-1H-pyrazol-3-yl)-quinazoline-2,4-diamine
To a solution of [2-Chloro-6-(4-fluoro-phenyl)-quinazolin-4-yl]-cyclopropylamine (150 mg, 0.48 mmol) and 1-Methyl-1H-pyrazol-3-ylamine (70 mg, 0.72 mmol) in 1,4-dioxane (5 ml) was added 2,6-lutidine (2 equiv.; 102 mg, 0.96 mmol). The solution was heated to 100° C. for 3 hours, then cooled and purified by RP HPLC with a gradient of H2O, 0.1% TFA-acetonitrile, to provide the desired product (140 mg, 0.287 mmol, 60% yield). The product was characterized as follows: MS (m/z): 375 ([M+H]+, 100); HPLC Rt=1.60 minutes (Method B).

reactant | [2-Chloro-6-(4-fluoro-phenyl)-quinazolin-4-yl]-cyclopropylamine | 0.48 mmol, 150 mg | ClC1=NC2=CC=C(C=C2C(=N1)NC1CC1)C1=CC=C(C=C1)F | C17H13ClFN3
reactant | 1-Methyl-1H-pyrazol-3-ylamine | 0.72 mmol, 70 mg | CN1N=C(C=C1)N | C4H7N3
reactant | 2,6-lutidine | 0.96 mmol, 102 mg, 2 equiv. | N1=C(C=CC=C1C)C | C7H9N
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N4-cyclopropyl-6-(4-fluoro-phenyl)-N2-(1-methyl-1H-pyrazol-3-yl)-quinazoline-2,4-diamine | 0.287 mmol, 140 mg, 60% yield | C1(CC1)NC1=NC(=NC2=CC=C(C=C12)C1=CC=C(C=C1)F)NC1=NN(C=C1)C | C21H19FN6
